US04613613
Synthesis of α-benzoylthiomethyl-β-(p-chlorophenyl)-γ-butyrolactone (Compound No. 74) (Ib)
To a solution of 600 mg of β-(p-chlorophenyl)-α-methylene-γ-butyrolactone in 10 ml of toluene were added 0.44 ml of thiobenzoic acid and one drop of triethylamine and the reaction was effected at room temperature for 18 hours. The reaction mixture was diluted with 100 ml of ethyl ether, washed with water and saturated saline, dried over magnesium sulfate and the solvent was then distilled off. The crude product thus obtained was purified by a silica gel column chromatography to give 750 mg (yield 75%) of the title compound.

reactant | β-(p-chlorophenyl)-α-methylene-γ-butyrolactone | 600 mg | ClC1=CC=C(C=C1)C1C(C(=O)OC1)=C | C11H9ClO2
reactant | thiobenzoic acid | 0.44 ml | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
product | α-benzoylthiomethyl-β-(p-chlorophenyl)-γ-butyrolactone | 750 mg, yield 75% | C(C1=CC=CC=C1)(=O)SCC1C(=O)OCC1C1=CC=C(C=C1)Cl | C18H15ClO3S
